US04830664
A mixture of 19.0 parts of methyl 2-mercapto-1-(1,2,3,4,4a,9,10,10a-octahydro-9-phenanthrenyl)-1H-imidazole-5-carboxylate, 75 parts of nitric acid and 150 parts of water was stirred for 1 hour at room temperature. The reaction mixture was diluted with crushed ice and treated with a sodium hydroxide solution. The product was extracted with 1,1'-oxybisethane. The extract was dried, filtered and evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 1.9 parts (11.1%) of methyl 1-(1,2,3,4,4a,9,10,10a-octahydro-9-phenanthrenyl)-1H-imidazole-5-carboxylate; mp. 139.9° C. (compound 3.2).

reactant | methyl 2-mercapto-1-(1,2,3,4,4a,9,10,10a-octahydro-9-phenanthrenyl)-1H-imidazole-5-carboxylate | SC=1N(C(=CN1)C(=O)OC)C1C2=CC=CC=C2C2CCCCC2C1 | C19H22N2O2S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | methyl 1-(1,2,3,4,4a,9,10,10a-octahydro-9-phenanthrenyl)-1H-imidazole-5-carboxylate | 11.1% | C1CCCC2C3=CC=CC=C3C(CC12)N1C=NC=C1C(=O)OC | C19H22N2O2
